US07638515B2
1,1,1-Trifluoro-4-phenyl-2-[(2-methoxyquinolin-5-yl)iminomethyl]-4-methylpentan-2-ol
Analogously to Example 13, 200 mg of 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal and 122 mg of 5-amino-2-methoxyquinoline are converted into 190 mg of product.

reactant | 2-hydroxy-4-methyl-4-phenyl-2-(trifluoromethyl)pentanal | 200 mg | OC(C=O)(CC(C)(C1=CC=CC=C1)C)C(F)(F)F | C13H15F3O2
reactant | 5-amino-2-methoxyquinoline | 122 mg | NC1=C2C=CC(=NC2=CC=C1)OC | C10H10N2O
product | 1,1,1-Trifluoro-4-phenyl-2-[(2-methoxyquinolin-5-yl)iminomethyl]-4-methylpentan-2-ol | FC(C(CC(C)(C)C1=CC=CC=C1)(O)C=NC1=C2C=CC(=NC2=CC=C1)OC)(F)F | C23H23F3N2O2
